US08865736B2
2,6-Difluoro-3-[5-(3-methoxy-phenyl)-benzothiazol-2-ylmethoxy]-benzamide
To the solution of compound 3-(5-bromo-benzothiazol-2-ylmethoxy)-2,6-difluoro-benzamide (0.300 g, 0.755 mmol) in dry DMF:H2O (5 mL: 2.5 mL), added 3-methoxyphenyl boronic acid (0.228 g, 1.5 mmol), and K3PO4 (0.190 g, 0.9 mmol) under the inert condition at room temperature and degassed for half an hour. Then to the reaction mixture added dichlorobis[(triphenylphosphine)-palladium (II) (0.078 g, 0.075 mmol) and again degassed for half an hour. The reaction mixture was heated at 120° C. for 2 hrs under nitrogen atmosphere. DMF was distilled off, after cooling to r.t. water was added into reaction mixture and extracted with ethyl acetate, The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The compound was purified by chromatography on silica (230-400μ) using ethyl acetate/hexane (50:50 as the eluent to provide the title compound as white solid (0.140 g, 43%). 1H NMR (DMSO-d6, 400 MHz); δ 3.85 (s, 3H), 5.72 (s, 2H), 6.97 (t, 1H, J=6.8 Hz (o-coupling), 7.11 (t, 1H, J=8.8 Hz, (o-coupling), 7.30 (broad s, 1H), 7.34 (d, 1H, J=8.8 Hz (o-coupling), 7.40 (dd, 2H, J=8.0 Hz (o-coupling), 7.79 (d, 1H, J=8.0 Hz (o-coupling), 7.90 (broad s, 1H), 8.18 (broad s, 1H), 8.21 (d, 1H, J=8.0 Hz); MS ES+ (427.14), HPLC (method 5) Rt=16.48 min.

reactant | 3-(5-bromo-benzothiazol-2-ylmethoxy)-2,6-difluoro-benzamide | 0.755 mmol, 0.300 g | BrC=1C=CC2=C(N=C(S2)COC=2C(=C(C(=O)N)C(=CC2)F)F)C1 | C15H9BrF2N2O2S
reactant | H2O | 5 mL | O | H2O
reactant | 3-methoxyphenyl boronic acid | 1.5 mmol, 0.228 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | K3PO4 | 0.9 mmol, 0.190 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | (triphenylphosphine)-palladium (II) | 0.075 mmol, 0.078 g | [Pd+2].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2,6-Difluoro-3-[5-(3-methoxy-phenyl)-benzothiazol-2-ylmethoxy]-benzamide | 0.140 g, 43% | FC1=C(C(=O)N)C(=CC=C1OCC=1SC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)OC)F | C22H16F2N2O3S
